US04734422
5-[4-(dimethylamino)benzoyl]-4-methyl-2(3H)-thiazolone
Dimethylamine (100 ml, 40% solution) was added to a solution of 5-(4-fluorobenzoyl)-4-methyl-2(3H)-thiazolone (4.7 g) in ethanol (200 ml). The mixture was stirred in a sealed stainless steel vessel at 120° C. for 16 hours. After cooling to ambient temperature the solvent and excess dimethylamino was evaporated. The residue was recrystallized twice from ethanol to give the title compound, mp. 224°-226° C.

reactant | Dimethylamine | 100 ml | CNC | C2H7N
reactant | 5-(4-fluorobenzoyl)-4-methyl-2(3H)-thiazolone | 4.7 g | FC1=CC=C(C(=O)C2=C(NC(S2)=O)C)C=C1 | C11H8FNO2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-[4-(dimethylamino)benzoyl]-4-methyl-2(3H)-thiazolone | CN(C1=CC=C(C(=O)C2=C(NC(S2)=O)C)C=C1)C | C13H14N2O2S
